US08809382B2
Step 3: 5-[5-Chloro-2-(5-methyl-hexyl)-indol-1-yl]-3-methyl-5-oxo-pentanoic acid
To the solution of 5-chloro-2-(5-methyl-hexyl)-1H-indole in DMSO was added KOH at RT and was stirred for 30 minutes. Then to this mixture, 4-methyl-dihydro-pyran-2,6-dione was added and stirred for 3 hours. The reaction was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The product was purified by column chromatography.

reactant | 5-chloro-2-(5-methyl-hexyl)-1H-indole | ClC=1C=C2C=C(NC2=CC1)CCCCC(C)C | C15H20ClN
reactant | KOH | [OH-].[K+]
reactant | 4-methyl-dihydro-pyran-2,6-dione | CC1CC(OC(C1)=O)=O | C6H8O3
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-[5-Chloro-2-(5-methyl-hexyl)-indol-1-yl]-3-methyl-5-oxo-pentanoic acid | ClC=1C=C2C=C(N(C2=CC1)C(CC(CC(=O)O)C)=O)CCCCC(C)C | C21H28ClNO3
